US04680303
To a suspension of methyl 2-(6-methyl-2-pyridyl)-1,3-dithiane-2-carbodithioate (130.5 g) in 1.2 liters of ethanol maintained at a temperature in the region of 20° C., a 33% (weight/volume) solution (840 cc) of methylamine in ethanol is added dropwise in the course of 10 minutes. The mixture is then stirred for 4 hours at the same temperature. The crystals which appear are separated by filtration, washed twice with ethyl acetate (100 cc in total), 4 times with isopropyl ether (400 cc in total) and dried under reduced pressure (0.2 mm Hg; 0.03 kPa) at a temperature in the region of 20° C. The product thereby obtained (100.2 g), to which is added some product (18.4 g) prepared under the same conditions in a previous operation, is dissolved in boiling ethyl acetate (3.3 liters); to this solution is added decolorising charcoal (33 g), and the solution is filtered hot. The filter is washed 4 times with boiling ethyl acetate (400 cc in total). The filtrate and the washing liquors are combined and cooled for 4 hours to a temperature in the region of 0° C. The crystals which appear are separated by filtration, washed 4 times with ethyl acetate (200 cc in total, 6 times with isopropyl ether (600 cc in total), and then dried under reduced pressure (0.2 mm Hg; 0.03 kPa) at 55° C. N-Methyl-2-(6-methyl-2-pyridyl)-1,3-dithiane-2-carbothiamide (99.1 g), m.p. 168° C., is thereby obtained.

reactant | methyl 2-(6-methyl-2-pyridyl)-1,3-dithiane-2-carbodithioate | 130.5 g | CC1=CC=CC(=N1)C1(SCCCS1)C(=S)SC | C12H15NS4
reactant | methylamine | 840 cc | CN | CH5N
reactant | ethyl acetate | 3.3 liters | C(C)(=O)OCC | C4H8O2
reactant | charcoal | 33 g | C | CH4
solvent | ethanol | 1.2 liters | C(C)O | C2H6O
product | N-Methyl-2-(6-methyl-2-pyridyl)-1,3-dithiane-2-carbothiamide | 99.1 g | CNC(=S)C1(SCCCS1)C1=NC(=CC=C1)C | C12H16N2S3
